Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lithium
 
Attending: ___.
 
Chief Complaint:
SI
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ yo CF with PMH CKD
Stage III-IV ___ lithium and bipolar disorder presents to ___
ED with severe depression/SI admitted pending psychiatric
inpatient bed. 

Ms. ___ has a depressed affect on exam. Answers questions
appropriately. seems unclear why went to the ED. States has
issues with depression and SI in the past with most recent a few
weeks ago but denies SI currently. Did read psychiatric note 
with
concern of mother and husband. Dx bipolar age ___ with last
suicide attempt at age ___ per patient. Support system is her
husband, ___. 

Per CKD: States known CKD from lithium use. +pruritis at scalp
but not generalized, intermittent nausea but none currently, and
no confusion. Cr 2.7 with last in our system 2.2 in ___. GFR 
18.

Currently denies urinary hesitation, dysuria or any UTI 
symptoms.
UA with >180 WBC ___ but neg Nitrite and small amt bacteria.
Given cipro x 1 in ED.
 
 
Past Medical History:
Stage III-IV ___ lithium and bipolar disorder 
 
Social History:
___
Family History:
Mother had CVA
Aunt with mental illness
 
Physical Exam:
98.2 145/86 106 18
eyes are open
she does not reply verbally to questions of orientation
no obvious akethesia
respirations unlabored
no peripheral edema
 
Pertinent Results:
___ 
Na 142, Cl 105, K 4.9, Cr 2.7, BUN 34, Glucose 117, HCO3 22
WBC 10.4, Hgb 12.6, Hct 40, Plt 472
UA WBC >182, Large ___, Neg nitrite, few bacteria, 30 +prot
Utox neg, ASA/Tylenol neg

___ 06:45AM BLOOD WBC-9.1 RBC-4.45 Hgb-12.1 Hct-38.7 MCV-87 
MCH-27.2 MCHC-31.3* RDW-13.8 RDWSD-43.7 Plt ___
___ 05:15AM BLOOD Glucose-121* UreaN-36* Creat-3.2* Na-143 
K-4.0 Cl-106 HCO3-22 AnGap-19
___ 10:00PM BLOOD Calcium-9.4 Mg-2.6
___ 06:45AM BLOOD TSH-3.4
___ 06:25AM BLOOD Osmolal-316*
 
Brief Hospital Course:
Ms. ___ is a ___ yo CF with PMH CKD Stage III-IV ___ lithiumand 
bipolar disorder presents to ___ ED with severe depression/SI 
admitted pending psychiatric inpatient bed. 

Psychiatry noted: "Her exam continues to be notable for 
anxious/fearful appearance, long response latency, apparent 
thought blocking. She had previously endorsed racing thoughts. 
She is inattentive and partially disoriented. This presentation, 
coupled with past history, continues to be suggestive of 
bipolar-mixed state"  

#  Acute SI
#  Bipolar D/O 

Patient was placed on ___.  I have included psychiatry 
consult and progress notes for your review.  They are concerned 
for bipolar mixed state and risk of suidcide given disinhibition 
and confusional state.

She was started on rispderdal which was increased to 1.5mg BID 
with additional doses PRN anxiety/agitation.

Because her mother stated that her symptoms improved on the past 
with use of Depakote, please consider the addition of Depakote 
to current regimen to assist with mood stabilization.

The following is the initial psychiatry consult note including 
impression:

Ms ___ is a ___ yo F with a PMHx
significant for Bipolar Disorder with multiple distant suicide
attempts, who self-presented to the Emergency Department, and
presents with escalating anxiety, depression and thoughts of
suicide for the past month.

Patient reports that she has been feeling increasingly anxious
and depressed for the past month following marriage to her
now-husband with whom she had been in a romantic relationship 
for
the past ___ years.  She endorses anxiety symptoms of "twitching,"
as well as ruminative thoughts.  She also endorses depressive
symptoms of hopelessness, sleep disturbances, guilt, and 
suicidal
ideation "every minute," without a plan.  She also endorses
auditory hallucinations in the form of "bangs," which she
experienced ___ years ago when she was first diagnosed with
Bipolar Disorder as a teenager.  

Patient states that her symptoms peaked this past ___ when 
she
was at work (in customer service for the ___ of ___, where
she "lost control;" she reports not being able to complete her
daily tasks, including scheduling, counting, inputting
information into the computer and stamping checks.  When asked 
to
elaborate on her loss of control, she said she felt
"overwhelmed," by her tasks and froze, unable to perform as
expected.  

Patient states that she recently married her boyfriend of ___
years, ___.  They married about 1 month ago.  She denies any
concerns with their relationship and feels that the marriage is
going well.

Patient states that she has been off of psychiatric medications
for the past ___ years, when she self-discontinued the Depakote
and Wellbutrin she had been on for ___ years.  Has not seen a
psychiatrist during this time.  

Unable to provide many details of her presentation, as patient
expresses that the questions were "too much" on several 
occasions
and that she was feeling overwhelmed by them.  

Collateral: 
Husband, ___ (___)
- ___ started about 2 weeks started; Per ___, patient has
stated that she will feel better if she goes to the hospital.  
- Feeling very depressed, not typical for her
- Been in a relationship with her for ___ years 

Mother, ___ (___)
- ___ of moving - had been living in ___, and she
moved in with ___ after mom moved to ___ (in ___
- Patient has said to mom that this is her "last time" - mother
believes that this represents thoughts of suicide

Psychiatric ROS:
- Depression - Reports symptoms including anhedonia,
hopelessness, guilt, fatigue, and sleep disturbances.
- Psychosis - Reports auditory hallucinations ("bangs"), and
recent paranoia (unable to further describe)
- Mania- Reports some irritability which she says is consistent
with prior manic episodes ~ ___ years ago, but no recent symptoms
including NO elevated mood or irritability, marked increases in
goal-directed behavior, racing thoughts, a decreased need for
sleep, or social/economic indiscretion
- Anxiety - report symptoms including panic attacks and
ruminative thoughts

PAST PSYCHIATRIC HISTORY:
- Sx/Dx: Bipolar Disorder
- Hospitalizations: 
   * per OMR: "went to an inpatient program in ___ at 
some
point which taught them how to live their daily lives, for
example, how to get up in the morning, how to take a shower, how
to take your medicines daily, how to not miss any doctors'
appointments.  This program helped to change her life." 
   * Multiple inpatient hospitalizations in her ___, none
recently
- Current treaters and treatment: 
   * Therapist: ___: ___
   * Psychiatrist: None for ___ years
- Medication and ECT trials: Lithium for ___ years, felt "numb"
and developed kidney injury; Was on Depakote and Wellbutrin
subsequently, took herself off of these ___ years ago
- Self-injury/Suicide attempts: She had tried to commit suicide
multiple times, particularly in her teens-___, including trying
to jump out of a second story window, trying to break a glass
vase over her head, trying to stab herself in the groin area.
- Harm to others: Denies

PAST MEDICAL HISTORY:
- Iron deficiency anemia
- Hypothyroidism, now resolved per patient.
- Chronic Kidney Disease secondary to lithium use x ___ years
- Sleep Apnea, no CPAP

MEDICATIONS:
- Lisinopril 2.5 mg PO Daily
- Quetiapine 50 mg PO QHS

ALLERGIES: 
NKDA

SUBSTANCE ABUSE HISTORY:
- EtOH: Denies
- Illicits: Denies
- Tobacco: Denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies

FAMILY PSYCHIATRIC HISTORY:
- Fam Dx: 
   * Aunt and grandmother with Bipolar Disorder 
   * Nephew with ___, ADHD and OCD 
   * Father with EtOH use disorder, completed suicide
   * Sister with EtOH & substance abuse
- Fam Hospitalizations: Unknown
- Fam Treatment Hx/Med Trials: Unknown
- Fam Hx Suicide: Father

SOCIAL HISTORY:
- B/R: ___
- Family: Mother lives in ___, but had been living with 
patient
in ___ up until one month ago.  Patient has good support
from her sister.  
Per OMR: 
   * "She has two sisters and a brother.  Her father had been an
alcoholic who committed suicide many years ago.  She used to be
really close to her mother and had even gone out to bars with 
her
mother when younger.  Her mother had always been very supportive
of her throughout her difficulties with her Bipolar disorder." 
   * "The patient feels that her older sister is very supportive
of her still.  She has an aunt who also really suffered from
Bipolar Mood Disorder and Lithium toxicity."
- Housing: Currently lives with her husband of one month, ___,
and five house-mates in ___
- Education: Completed 2 ___ degrees
- Employment/Income: Currently works in Customer Service for the
___
- Spiritual: Says she "tries to be;" Raised Catholic, has
followed the Quaker and Buddhist faiths in the past.
- Access to Weapons: Denies

Medical ROS:
- A 10-point ROS was negative, including: no fever, HA, eye 
pain,
hearing deficit, chest pain, difficulty breathing, abdominal
pain, constipation, diarrhea, musculoskeletal pain

EXAM: 
 *VS: T 98.3; HR 78; BP 135/115; RR 16; O2 99% RA   
  
Neurological:  
  *Station and Gait: not observed; patient evaluated in ED bed
  *Tone and Strength: Normal bulk and tone; moves all 4
extremities anti-gravity
  Abnormal Movements: no tics, tremors, evidence of EPS
  Cranial Nerves: II-XII intact and symmetric to observation,
with no evidence of focal deficits.

Cognition: 
  Wakefulness/alertness: alert and engaged in interview 
  *Attention: impaired to interview; required asking questions
multiple times on several occasions.  
  *Orientation: oriented x3 (self, location and date) 
  *Memory:   In tact to recent and distant events.  
  *Fund of knowledge:  appropriate for level of education     
  *Speech: Non-spontaneous, monotone
  *Language: fluent ___ speaker without paraphasic errors.
  
 Mental Status:
  *Appearance:  Pt appears stated age, adequate grooming
  Behavior: Struggles being cooperative, stating twice that the
questions were "too much," and made her feel "overwhelmed."
  *Mood and Affect:  "Anxious"; Affect blunted, dysphoric,
anxious 
  *Thought process / *associations:  Logical and linear, without
loosening of associations or tangentiality.
  *Thought Content: Reports current suicidal ideation without
plan; Reports AH in the form of "bangs," which started ___ weeks
ago.  Denies HI, Denies VH 
  *Judgment and Insight:  Impaired/impaired.

DATA:
 Labs:
  ___: Na: 142
  ___: K: 4.9
  ___: Cl: 105
  ___: CO2: 22
  ___: BUN: 34*
  ___: Creat: 2.7*
  ___: Glucose: 117* (If fasting, 70-100 normal, >125
provisional diabetes)

  ___: WBC: 10.4*
  ___: HGB: 12.6
  ___: HCT: 40.3
  ___: Plt Count: 472*

Serum toxicology: Pending
Urine toxicology: Pending

DSM 5 DIAGNOSIS:
- Bipolar Disorder, by history
- Adjustment Disorder, with mixed anxiety and depressed mood

ASSESSMENT: Ms ___ is a ___ yo F with a PMHx significant for
Bipolar Disorder with multiple distant suicide attempts, who
self-presented to the Emergency Department, and presents with
escalating anxiety, depression and thoughts of suicide for the
past month.  On interview, the patient endorses worsening
depression and anxiety for the past several weeks, with
near-constant thoughts of suicide, though currently without 
plan.
She also endorses auditory hallucinations in the form of 
"bangs,"
which she says she has not experienced in nearly ___ years since
she was diagnosed with bipolar disorder.  The timeline of
symptoms corresponds to the month following marriage to her
long-time boyfriend and subsequent moving in with him and five
other roommates.  Patient admits to self-discontinuing her
psychiatric medications approximately ___ years ago, but is unable
to cite a reason for doing so.  Collateral was concerning for a
notable change in mood by mother and husband for two weeks, with
comments that are considered to be suggestive of thoughts to end
her life.  On exam the patient is very anxious appearing and
distracted, struggling to answer many questions and requiring
some questions to be asked multiple times and becoming
overwhelmed when inquiring about specific details of her
symptoms.  The neurologic exam was within normal limits. 

Given the timeline of symptoms, the presentation is most
consistent with an adjustment disorder with mixed anxiety and
depression in the context of recent marriage, moving out of her
home where she lived with her mother and moving into a new home
with her husband and roommates.  Alternatively, this may also
represent a manifestation of her existing Bipolar Disorder,
particularly given that she has been off her psychiatric
medications for the past ___ years, and reports similar 
auditory
hallucinations that she experienced when she was first 
diagnosed.

RISK ASSESSMENT:
# Static Risk Factors:
- history of suicide attempts 
- history of abuse 
- chronic mental illness 
- Caucasian race 
- family history of completed suicide
- chronic medical illness.   

# Modifiable Risk Factors:
- suicidal ideation 
- possible psychosis 
- medication noncompliance 
- poorly controlled mental illness 
- hopelessness 
- insomnia

# Protective Factors
- help-seeking nature 
- future-oriented viewpoint 
- spirituality 
- no history of substance use disorder 
- strong social supports.  

Based on the current presentation and assessment, the patient
currently meets ___ criteria and would benefit from
inpatient hospitalization for stabilization,
psychopharmacological optimization, and aftercare planning.  
This
is currently the least restrictive level of care that is
appropriate for the patient.

#Acute on Chronic Kidney disease:

I reviewed ___ records at on ___ creat 2.69 and back in ___
creat as high as 3.28

I understand that lithium, which she is off is felt to relate to 
chronic kidney disease.  Her records do not state if she has 
diabetes insipidus, but she did briefly develop some 
hypernatremia during hospitalization.

Her creat ranged from 2.7 to as high as 3.5 during 
hospitalization and is 3.2 during hospitalization.  Her Fena was 
not low.  She did not have clinically evident hypovolemia, but 
may have been mildly dry given mood disorder and possible lack 
of sufficient oral intake.

While her mood disorder is being addressed and she may have 
reduced oral intake, we have chosen to stop her ace-inhibitor, 
lisinopril which is indicated for some sub-nephrotic 
proteinuria.  

Make sure she has plenty of water to consume and address thirst 
seriously.  

She should have repeat chem7 on ___ and lisinopril 
2.5mg can be resumed if her creatinine is improved.  If her 
creatinine is rising >3.5 please contact her nephrologist at ___ 
Dr. ___ (fellow) with attending nephrologist, Dr. 
___.  
 
# Pyuria: repeat urine culture without specific bacterial 
pathogen on two urine cultures, did not treat for UTI other than 
cipro x1.  

# Contact  Husband ___ ___, Mother ___ ___

 
___ on Admission:
=The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. QUEtiapine Fumarate 50 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  RisperiDONE 1.5 mg PO BID  
3.  RisperiDONE 0.5 mg PO BID:PRN anxiety/agitation  
4. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until repeat creat is in stable range 
in the mid 2.5 range

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
escalating anxiety, depression and thoughts of
suicide for the past month.
chronic kidney disease
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for treatment of escalating anxiety, 
depression and thoughts of suicide for the past month.

because of risk of self-injury we currently have a ___ to 
help keep you safe while you proceed with further psychiatric 
care.

you have chronic kidney disease and we have stopped your 
lisinopril while your kidney function is being monitored
 
Followup Instructions:
___